US04966967
4-(2-Cyclohexylethyl)-9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
In a manner similar to example 4, react 9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine with cyclohexaneacetaldehyde and NaBH3CN to obtain the title compound.

reactant | 9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCNCCO2)C=C1 | C13H15N3O2
reactant | cyclohexaneacetaldehyde | C1(CCCCC1)CC=O | C8H14O
reactant | NaBH3CN | [BH3-]C#N.[Na+]
product | 4-(2-Cyclohexylethyl)-9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | C1(CCCCC1)CCN1CCOC2=C(OCC1)C=CC(=C2)N2C=NC=C2 | C21H29N3O2
